US04506079
A solution of 4'-chloromethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-[1,3]dioxolane (100 parts) in isopropylamine (890 parts) is placed in a sealed tube and heated on boiling water bath for 7 hours. The reaction mixture is evaporated to remove isopropylamine. The residue is dissolved in dichloromethane, washed with water, dried and concentrated to afford 4'-isopropylaminomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-[1,3]dioxolane in 60% yield. The physical constants are given in Table I, No. 19. yield. The physical constants are given in Table I, No. 19.

reactant | 4'-chloromethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-[1,3]dioxolane | ClCC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C | C18H19BrClNO4S
solvent | isopropylamine | C(C)(C)N | C3H9N
product | 4'-isopropylaminomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-[1,3]dioxolane | 60% yield | C(C)(C)NCC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C | C21H27BrN2O4S
